US04803197
A mixture of 1.7 g of ethyl 1-(3,4-dichlorophenylmethyl)-1,3-dihydro-4-hydroxy-2,1-benzothiazepine-5-carboxylate-2,2-dioxide, 0.6 g of 4-chlorophenethylamine in 100 ml of toluene is heated at reflux for 2 days. The reaction mixture is evaporated to dryness. The residue is crystallized from ether - hexane (charcoal) to yield N-(4-chlorophenethyl)-1-(3,4-dichlorophenylmethyl)-1,3-dihydro-4-(4-chlorophenethylamino)-2,1-benzothiazepine-5-carboxamide-2,2-dioxide; m.p. 119°-121°.

reactant | ethyl 1-(3,4-dichlorophenylmethyl)-1,3-dihydro-4-hydroxy-2,1-benzothiazepine-5-carboxylate-2,2-dioxide | 1.7 g | ClC=1C=C(C=CC1Cl)CN1S(CC(=C(C2=C1C=CC=C2)C(=O)OCC)O)(=O)=O | C19H17Cl2NO5S
reactant | 4-chlorophenethylamine | 0.6 g | ClC1=CC=C(CCN)C=C1 | C8H10ClN
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-chlorophenethyl)-1-(3,4-dichlorophenylmethyl)-1,3-dihydro-4-(4-chlorophenethylamino)-2,1-benzothiazepine-5-carboxamide-2,2-dioxide | ClC1=CC=C(CCNC(=O)C2=C(CS(N(C3=C2C=CC=C3)CC3=CC(=C(C=C3)Cl)Cl)(=O)=O)NCCC3=CC=C(C=C3)Cl)C=C1 | C33H29Cl4N3O3S
